US06548042B2
Tetramethyl m-iodophenyl-1-hydroxy-ethylidenebis(Phosphonate)
Tetramethyl m-trimethylsilylphenyl-1-hydroxy-ethylidenebis(phosphonate) (0.41 g, 1.0 mmol) was added to a solution of ICl (0.32 g, 2.0 mmol) in acetic acid (2 cm3) and the mixture was stirred for 5 h. The solvent was then evaporated and the residue was extracted with 1:1 hexane:Et2O (2×10 cm3). Remaining solvents were removed from the residue under reduced pressure affording the title compound (0.38 g, 81%) as an orange liquid.

reactant | Tetramethyl m-trimethylsilylphenyl-1-hydroxy-ethylidenebis(phosphonate) | 1.0 mmol, 0.41 g | C[Si](C=1C=C(C=CC1)CC(P(OC)(OC)=O)(P(OC)(OC)=O)O)(C)C | C15H28O7P2Si
reactant | ICl | 2.0 mmol, 0.32 g | ICl | ClI
solvent | acetic acid | 2 cm3 | C(C)(=O)O | C2H4O2
product | Tetramethyl m-iodophenyl-1-hydroxy-ethylidenebis(Phosphonate) | 0.38 g, 81% | IC=1C=C(C=CC1)CC(P(OC)(OC)=O)(P(OC)(OC)=O)O | C12H19IO7P2
